US06225318B1
4-(6-Chloro-2,3-dihydro-indol-1-yl)-7-methoxy-6-phenyl-quinazoline
The title compound was prepared from 7-Methoxy-6-phenyl-3H-quinazolin-4-one (250 mg, 0.99 mmol) and 6-chloroindoline (152 mg, 0.99 mmol) utilizing the method of Example 45 (163 mg, 39%). One hundred sixty-three milligrams (39%) of product was obtained after column chromatography and precipitation as the HCl salt.

reactant | 7-Methoxy-6-phenyl-3H-quinazolin-4-one | 0.99 mmol, 250 mg | COC1=C(C=C2C(NC=NC2=C1)=O)C1=CC=CC=C1 | C15H12N2O2
reactant | 6-chloroindoline | 0.99 mmol, 152 mg | ClC1=CC=C2CCNC2=C1 | C8H8ClN
product | 4-(6-Chloro-2,3-dihydro-indol-1-yl)-7-methoxy-6-phenyl-quinazoline | ClC1=CC=C2CCN(C2=C1)C1=NC=NC2=CC(=C(C=C12)C1=CC=CC=C1)OC | C23H18ClN3O
